US05705499
2Chloro-5,11-dihydro-11-ethyl-5-methyl-8-(2-phenyloxiranyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-(cis-2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (prepared by procedures analogous to those described in Example 43) (51 mg, 0.13 mmol) was dissolved in 3 mL of dichloromethane and treated with m-chloroperbenzoic acid (50%, 45 mg, 0.13 mmol) at room temperature. Solid Ca(OH)2 was added, and the reaction mixture was filtered and concentrated. Purification by flash chromatography (elution with ethyl acetate-hexanes) and recrystallization (diethyl ether-hexanes) afforded the title compound (11 mg, 21%), m.p. 105°-107° C.

reactant | 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-(cis-2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)\C=C/C3=CC=CC=C3)=O)C | C22H19ClN4O
reactant | m-chloroperbenzoic acid | 0.13 mmol, 45 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2Chloro-5,11-dihydro-11-ethyl-5-methyl-8-(2-phenyloxiranyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 11 mg, 21% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C3(OC3)C3=CC=CC=C3)=O)C | C22H19ClN4O2
